US06518277B1
2-Amino-6-chloro-N-(2-chlorophenyl)benzamide (1f)
Prepared according to Procedure A using 2-amino-6-chlorobenzoic acid (2.5 g, 14.6 mmol) and SOCl2 (2.7 mL, 36.4 mmol) in benzene (75 mL), followed by 2-chloroaniline (3.1 mL, 29.1 mmol) and CHCl3 (75 mL). The product chromatographed in CH2Cl2 to provide 1.05 g of a yellow orange solid (26%). 1H NMR (CDCl3) δ: 8.54 (d, J=8.1 Hz, 1H); 8.30 (br s, 1H); 7.41 (dd, J=1.5, 8.0 Hz, 1H); 7.33 (t, J=7.8 Hz, 1H); 7.10 (t, J=8.1 Hz, 1H); 7.09 (dt, J=1.6, 7.8 Hz, 1H); 6.78 (dd, J=0.4, 7.9 Hz, 1H); 6.63 (dd, J=0.9, 8.2 Hz, 1H); 4.69 (br s, 2H). MS (ES): m/z 303.0 (M+22), 281.0 (M+).

reactant | 2-amino-6-chlorobenzoic acid | 14.6 mmol, 2.5 g | NC1=C(C(=O)O)C(=CC=C1)Cl | C7H6ClNO2
reactant | SOCl2 | 36.4 mmol, 2.7 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 29.1 mmol, 3.1 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 75 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
product | 2-Amino-6-chloro-N-(2-chlorophenyl)benzamide | 1.05 g, 26% | NC1=C(C(=O)NC2=C(C=CC=C2)Cl)C(=CC=C1)Cl | C13H10Cl2N2O
